US05856517
4-Carbomethoxy-2-nitrophenylacetaldehyde dimethylacetal (8.75 g, 41.43 mmole) was reduced under hydrogen (50 psi, 0.45 g of 10% Pd/carbon) in 170 mL of methanol for 2.5 h. The solution was filtered through celite and evaporated to an oil. Crystallization from ether and hexanes gave 6.16 g of 2-amino-4-carbomethoxy-phenylacetaldehyde dimethylacetal.

reactant | 4-Carbomethoxy-2-nitrophenylacetaldehyde dimethylacetal | 41.43 mmole, 8.75 g | COC(CC1=C(C=C(C=C1)C(=O)OC)[N+](=O)[O-])OC | C12H15NO6
solvent | methanol | 170 mL | CO | CH4O
product | 2-amino-4-carbomethoxy-phenylacetaldehyde dimethylacetal | 6.16 g | COC(CC1=C(C=C(C=C1)C(=O)OC)N)OC | C12H17NO4
